US08071773B2
i) tert-Butyl 2-benzyl-6-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate
A solution of 1 mmol of 2-benzyl-2,7-diaza-spiro[4.5]decan-6-one in 5 ml of acetonitrile is treated with 2.2 mmol of N,N-dimethylaminopyridine and 2.2 mmol of di-tert-butyl dicarbonate. The reaction mixture is stirred for 48 hours at room temperature, then poured into water and extracted with tert-butyl methyl ether (3×). The combined organic phases are washed with brine, dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | 2-benzyl-2,7-diaza-spiro[4.5]decan-6-one | 1 mmol | C(C1=CC=CC=C1)N1CC2(CC1)C(NCCC2)=O | C15H20N2O
reactant | di-tert-butyl dicarbonate | 2.2 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | tert-Butyl 2-benzyl-6-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | C(C1=CC=CC=C1)N1CC2(CC1)C(N(CCC2)C(=O)OC(C)(C)C)=O | C20H28N2O3
